US04004009
7-chloro-1-methyl-5-(3'-trifluoromethylphenyl)-1H-pyrazolo[4,3-c]pyridazin-6-(5H)-one
In 100 ml. of absolute dimethylformamide (dried over molecular sieves) under a nitrogen atmosphere, are dissolved 9.6 grams of 4-chloro-5-(1-methylhydrazino)-2-(3'-trifluoromethylphenyl)-3(2H)-pyridazinone. To this solution are added 3.9 grams of N,N-dimethylformamide dimethyl acetal and the solution is heated at 110°-120° C. overnight. The progress of the reaction is followed by thin layer chromatography. An additional 3.9 grams of N,N-dimethylformamide dimethyl acetal are added with continued heating to complete the reaction (about 20 hours). The reaction mixture is then evaporated to dryness in vacuo and then column chromatographed on silica gel, eluting with a mixture of benzene-chloroform (50/50), to obtain the title product. (m.p. 156°-158° C.).

reactant | 4-chloro-5-(1-methylhydrazino)-2-(3'-trifluoromethylphenyl)-3(2H)-pyridazinone | 9.6 grams | ClC=1C(N(N=CC1N(N)C)C1=CC(=CC=C1)C(F)(F)F)=O | C12H10ClF3N4O
reactant | N,N-dimethylformamide dimethyl acetal | 3.9 grams | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide dimethyl acetal | 3.9 grams | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-chloro-1-methyl-5-(3'-trifluoromethylphenyl)-1H-pyrazolo[4,3-c]pyridazin-6-(5H)-one | ClC1=C2C(=NN(C1=O)C1=CC(=CC=C1)C(F)(F)F)C=NN2C | C13H8ClF3N4O
